US09388161B2
Tetrabutylammonium fluoride trihydrate (191 g, 731.8 mmol) was added in portions to a solution of 2,3-difluoro-5-(triisopropylsilyloxy)benzoic acid (99.13 g, 300.0 mmol) in tetrahydrofuran (500 mL), and the resulting mixture stirred overnight at room temperature. The reaction mixture was poured into water (1000 mL) and extracted with ethyl acetate (2×500 mL). The combined organic layers were washed with brine (2×500 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to afford 2,3-difluoro-5-hydroxybenzoic acid (50 g, 95%) as a light yellow solid. MS (ESI, neg. anion) m/z 173 [M−H]−.

reactant | Tetrabutylammonium fluoride trihydrate | 731.8 mmol, 191 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2,3-difluoro-5-(triisopropylsilyloxy)benzoic acid | 300.0 mmol, 99.13 g | FC1=C(C(=O)O)C=C(C=C1F)O[Si](C(C)C)(C(C)C)C(C)C | C16H24F2O3Si
reactant | water | 1000 mL | O | H2O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 2,3-difluoro-5-hydroxybenzoic acid | 50 g, 95% | FC1=C(C(=O)O)C=C(C=C1F)O | C7H4F2O3
